US06869954B2
Preparation of 2-isobutyl-6-[4-(methylthio)phenyl]-4-propargylaminomethyl-2H-pyridazin-3-one
Following the procedure of Example 1(10), 2-isobutyl-4-methanesulfonyloxymethyl-6-[4-(methylthio)phenyl]-2H-pyridazin-3-one and propargylamine were reacted to yield the title compound as a yellow oil (yield: 52.2%).

reactant | 2-isobutyl-4-methanesulfonyloxymethyl-6-[4-(methylthio)phenyl]-2H-pyridazin-3-one | C(C(C)C)N1N=C(C=C(C1=O)COS(=O)(=O)C)C1=CC=C(C=C1)SC | C17H22N2O4S2
reactant | propargylamine | C(C#C)N | C3H5N
product | 2-isobutyl-6-[4-(methylthio)phenyl]-4-propargylaminomethyl-2H-pyridazin-3-one | yield: 52.2% | C(C(C)C)N1N=C(C=C(C1=O)CNCC#C)C1=CC=C(C=C1)SC | C19H23N3OS
